US04752645
(B) α-Ethyl-[2-(5-chloro-2-nitrophenyl)-1-(4-methoxyphenyl) ethyl]propanedioic acid, dimethyl ester
[2-(5-Chloro-2-nitrophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester (15.29 g, 36.25 mmole) was dissolved in dry dimethylformamide (100 ml) under argon. Prewashed (ether, 3 times), 50% sodium hydride (1.04 g, 43.3 mmole) was added with stirring. (The mixture turned from yellow to a dark red color). Stirring was continued for 20 minutes before iodoethane (14.5 ml, 28.3 g, 181 mmole, 5 eq) was added dropwise, and the reaction mixture was allowed to stir for an additional 2 hours. The solution was diluted with ether and washed with water. The organic layer was dried (magnesium sulfate), concentrated, and vacuum-dried overnight to yield 17.65 g of crude product as a light yellow oil. This material was triturated with methanol leaving 12.73 g of white solid, melting point 95.5°-97.0° C. Additional product was present in the mother liquor.

reactant | [2-(5-Chloro-2-nitrophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester | 36.25 mmole, 15.29 g | ClC=1C=CC(=C(C1)CC(C1=CC=C(C=C1)OC)C(C(=O)OC)C(=O)OC)[N+](=O)[O-] | C20H20ClNO7
reactant | sodium hydride | 43.3 mmole, 1.04 g | [H-].[Na+]
reactant | iodoethane | 181 mmole, 14.5 ml, 28.3 g, 5 eq | ICC | C2H5I
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | α-Ethyl-[2-(5-chloro-2-nitrophenyl)-1-(4-methoxyphenyl) ethyl]propanedioic acid, dimethyl ester | 17.65 g | C(C)C(C(=O)OC)(C(=O)OC)C(CC1=C(C=CC(=C1)Cl)[N+](=O)[O-])C1=CC=C(C=C1)OC | C22H24ClNO7
